US07456164B2
4-{4-[4-(azetidin-1-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenoxy}-1-isopropylpiperidine
4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid (200 mg, 0.58 mmol), azetidine hydrochloride (81 mg, 0.87 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (121 mg, 0.63 mmol), 1-hydroxybenzotriazole hydrate (97 mg, 0.63 mmol) and triethylamine (210 μL, 1.51 mmol) were stirred in dichloromethane (8 mL) at room temperature for 18 hours. The reaction was diluted with dichloromethane (60 mL) and washed with aqueous sodium bicarbonate. The aqueous were extracted again with dichloromethane. The organics were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.5, by volume) to provide the title compound (97 mg, 43%) as a white solid. 1H NMR (400 MHz, CD3OD) δ 1.11 (d, 6H), 1.77-1.82 (m, 2H), 1.88-1.95 (m, 2H), 2.01-2.08 (m, 4H), 2.26-2.29 (m, 2H), 2.47-2.52 (m, 2H), 2.76-2.86 (m, 3H), 3.66-3.74 (m, 4H), 3.79-3.82 (m, 2H), 3.92-3.96 (m, 2H), 4.40 (m, 1H), 6.95 (d, 2H), 7.22 (d, 2H). HRMS ESI+ m/z 387.2634 [MH]+.

reactant | 4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid | 0.58 mmol, 200 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C20H29NO4
reactant | azetidine hydrochloride | 0.87 mmol, 81 mg | Cl.N1CCC1
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.63 mmol, 121 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.63 mmol, 97 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 1.51 mmol, 210 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-{4-[4-(azetidin-1-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenoxy}-1-isopropylpiperidine | 97 mg, 43% | N1(CCC1)C(=O)C1(CCOCC1)C1=CC=C(OC2CCN(CC2)C(C)C)C=C1 | C23H34N2O3
